US06515011B2
1-((2R)-2-Amino-2-cyclohexylethanoy)-N-(2-(2-amino-3,3-difluoropropyl)-5-chlorobenzyl)-L-prolinamide
TFA (0.65 mL) was added to a stirred solution of N-[2-(2-amino-3,3-difluoropropyl)-5-chlorobenzyl]-1-{(2R)-2-[(tert-butoxycarbonyl)amino]-2-cyclohexylethanoyl}-L-prolinamide (0.080 g, 0.14 mmol) in CH2Cl2 (0.7 mL). After 1 h the solvent was evaporated in vacuo and the residue was partitioned between EtOAc and saturated aqueous Na2CO3. The organic layer was dried (Na2SO4) and evaporated in vacuo. The residue was partitioned between EtOAc and 1M HCl. The aqueous layer was evaporated in vacuo to give the HCl salt of the title compound as an off white solid; MS m/z=471.5.

reactant | TFA | 0.65 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N-[2-(2-amino-3,3-difluoropropyl)-5-chlorobenzyl]-1-{(2R)-2-[(tert-butoxycarbonyl)amino]-2-cyclohexylethanoyl}-L-prolinamide | 0.14 mmol, 0.080 g | NC(CC1=C(CNC([C@H]2N(CCC2)C([C@@H](C2CCCCC2)NC(=O)OC(C)(C)C)=O)=O)C=C(C=C1)Cl)C(F)F | C28H41ClF2N4O4
solvent | CH2Cl2 | 0.7 mL | C(Cl)Cl | CH2Cl2
product | 1-((2R)-2-Amino-2-cyclohexylethanoy)-N-(2-(2-amino-3,3-difluoropropyl)-5-chlorobenzyl)-L-prolinamide | N[C@@H](C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CC(C(F)F)N)CCC1)C1CCCCC1 | C23H33ClF2N4O2
